US06043242
A2. 6-[3-(2-Chloromethyl-3-methylpyridin-4-ylsulfanyl)-propylsulfanyl]-3-nitroimidazo-[1,2-b]pyridazine
A solution of 3.6 ml (49.8 mmol) of thionyl chloride in 30 ml of dichloromethane is added dropwise at room temperature to a solution of 15.0 g (38.3 mmol) of {3-methyl-4-[3-(3-nitroimidazo[1,2-b]pyridazin-6-yl-sulfanyl)propylsulfanyl]pyridin-2-yl}methanol in 400 ml of anhydrous dichloromethane and the mixture is then stirred for a further 18 h. It is then cooled to 0° C. and aqueous sodium carbonate solution (100 ml) is cautiously added dropwise. The dichloromethane is distilled off. The suspension is then treated with 400 ml of water and stirred at 0° C. for 30 min. The precipitate is filtered off, washed with water, dried at 40° C. in vacuo and then suspended in 300 ml of acetone. After filtration and drying, 15.3 g (97%) of the title compound are isolated as a beige powder. M.p.: 155-156° C.

reactant | thionyl chloride | 49.8 mmol, 3.6 ml | S(=O)(Cl)Cl | Cl2OS
reactant | {3-methyl-4-[3-(3-nitroimidazo[1,2-b]pyridazin-6-yl-sulfanyl)propylsulfanyl]pyridin-2-yl}methanol | 38.3 mmol, 15.0 g | CC=1C(=NC=CC1SCCCSC=1C=CC=2N(N1)C(=CN2)[N+](=O)[O-])CO | C16H17N5O3S2
reactant | sodium carbonate | 100 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | 6-[3-(2-Chloromethyl-3-methylpyridin-4-ylsulfanyl)-propylsulfanyl]-3-nitroimidazo-[1,2-b]pyridazine | 15.3 g, 97% | ClCC1=NC=CC(=C1C)SCCCSC=1C=CC=2N(N1)C(=CN2)[N+](=O)[O-] | C16H16ClN5O2S2
